US09340556B2
To a solution of 3,4-dimethoxyaniline (14 g, 91 mmol) in dry Tetrahydrofuran (THF) (385 mL) was added Boc2O (101 mmol) in one portion. The resulting solution was refluxed for 2 h. After cooling, the solvent was evaporated and the solid residue was suspended in hexane (500 mL), and the mixture was heated to reflux. After cooling down to rt, the white solid was collected by filtration to afford tert-butyl (3,4-dimethoxyphenyl)carbamate (21 g, 81 mmol, 89% yield). LCMS: (M+H)+: 254.0.

reactant | 3,4-dimethoxyaniline | 91 mmol, 14 g | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | Boc2O | 101 mmol | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | Tetrahydrofuran | 385 mL | O1CCCC1 | C4H8O
product | tert-butyl (3,4-dimethoxyphenyl)carbamate | 81 mmol, 21 g, 89% yield | COC=1C=C(C=CC1OC)NC(OC(C)(C)C)=O | C13H19NO4
